US06235778B1
d) 3-[3-(5-Chloro-2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propoxyguanidine hydrochloride
A mixture of 3-[3-(5-chloro-2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propoxyamine (265 mg, 0.66 mmol, prepared in the preceding step) and 1H-pyrazole-1-carboxamidine hydrochloride (196 mg, 1.33 mmol) in anhydrous N,N-dimethylformamide (3 mL) was stirred at ambient temperature for 2.5 h. Additional 1H-pyrazole-1-carboxamidine hydrochloride (97 mg, 0.66 mmol) was added and the reaction was stirred at ambient temperature for 3 days. N,N-Dimethylformamide was removed in vacuo, then acetonitrile (1 mL) was added to precipitate excess 1H-pyrazole-1-carboxamidine hydrochloride. The mixture was filtered and the filtrate was concentrated in vacuo. The residual oil was partitioned between diethyl ether (20 mL) and water (20 mL). The aqueous layer was washed with diethyl ether (2×20 mL). The aqueous layer was neutralized (pH 7) with 2N NaOH and extracted with ethyl acetate (2×30 mL). The ethyl acetate extracts were washed with pH 7 buffer (2×20 mL) and brine (30 mL), dried over Na2SO4, filtered, and evaporated to give the free base of the title compound (281 mg, 96%) as a colorless oil. Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C18H22CIN3O6S: 444.1 (M+H), 466.1 (M+Na). Found 444.6, 466.7.

reactant | 3-[3-(5-chloro-2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propoxyamine | ClC=1C=CC(=C(C1)S(=O)(=O)OC=1C=C(OCCCON)C=C(C1)C)OC | C17H20ClNO6S
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 1.33 mmol, 196 mg | Cl.N1(N=CC=C1)C(=N)N
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 0.66 mmol, 97 mg | Cl.N1(N=CC=C1)C(=N)N
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-[3-(5-Chloro-2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propoxyguanidine hydrochloride | 281 mg, 96% | Cl.ClC=1C=CC(=C(C1)S(=O)(=O)OC=1C=C(OCCCONC(=N)N)C=C(C1)C)OC | InChI=1S/C18H22ClN3O6S.ClH/c1-12-8-14(26-6-3-7-27-22-18(20)21)11-15(9-12)28-29(23,24)17-10-13(19)4-5-16(17)25-2;/h4-5,8-11H,3,6-7H2,1-2H3,(H4,20,21,22);1H
